US09340546B2
Pd on C, wet, Degussa (240 mg, 0.2255 mmol) was added to a stirred solution of 3-nitro-4-[1-(oxetan-3-yl)-3,6-dihydro-2H-pyridin-4-yl]pyridine (614 mg, 2.350 mmol) in EtOAc (20 mL)/EtOH (20 mL). The reaction was placed under an atmosphere of hydrogen and stirred at ambient temperature for 15 hours. The catalyst was removed by filtration through a pad of celite and the filtrate concentrated in vacuo to give the 4-(1-(oxetan-3-yl)piperidin-4-yl)pyridin-3-amine as a pale yellow solid (518 mg, 95% Yield). MS (ES+) 234.2.

reactant | 3-nitro-4-[1-(oxetan-3-yl)-3,6-dihydro-2H-pyridin-4-yl]pyridine | 2.350 mmol, 614 mg | [N+](=O)([O-])C=1C=NC=CC1C=1CCN(CC1)C1COC1 | C13H15N3O3
reactant | EtOH | 20 mL | CCO | C2H6O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | Pd | [Pd] | Pd
product | 4-(1-(oxetan-3-yl)piperidin-4-yl)pyridin-3-amine | 518 mg, 95% Yield | O1CC(C1)N1CCC(CC1)C1=C(C=NC=C1)N | C13H19N3O
